US07645760B2
b) N-(5-Chloro-2-{(E)-3-[4-(4-chloro-benzyl)-2-methyl-piperazin-1-yl]-3-oxo-propenyl}-phenyl)-acetamide
0.10 g (0.42 mmol) (E)-3-(2-Acetylamino-4-chloro-phenyl)-acrylic acid, 85 mg 1-(4-Chloro-benzyl)-3-methyl-piperazine (0.38 mmol), 87 mg EDCI (0.45 mmol) and 61 mg HOBt (0.45 mmol) were dissolved in 5 ml DMF. The reaction mixture was stirred overnight, then partitioned between ethylacetate and aq. sodiumbicarbonate solution. The organic phase was further washed with water and brine. Removal of the solvent gave a crude product which was further purified by prep. HPLC (Waters XT column, acetonitrile/water). 0.11 mg (0.24 mmol, 63%) of the title compound was obtained as an pale yellow solid.

reactant | (E)-3-(2-Acetylamino-4-chloro-phenyl)-acrylic acid | 0.42 mmol, 0.10 g | C(C)(=O)NC1=C(C=CC(=C1)Cl)/C=C/C(=O)O | C11H10ClNO3
reactant | 1-(4-Chloro-benzyl)-3-methyl-piperazine | 0.38 mmol, 85 mg | ClC1=CC=C(CN2CC(NCC2)C)C=C1 | C12H17ClN2
reactant | EDCI | 0.45 mmol, 87 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.45 mmol, 61 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(5-Chloro-2-{(E)-3-[4-(4-chloro-benzyl)-2-methyl-piperazin-1-yl]-3-oxo-propenyl}-phenyl)-acetamide | 0.24 mmol, 0.11 mg, 63% | ClC=1C=CC(=C(C1)NC(C)=O)\C=C\C(=O)N1C(CN(CC1)CC1=CC=C(C=C1)Cl)C | C23H25Cl2N3O2
